US06441015B2
2-Cyclopropylmethanesulfonyl-4-(2,6-dimethyl-4-nitro-phenoxy)-phenol was prepared from 5-(2,6-dimethyl-4-nitro-phenoxy)-2-methoxy-cyclopropylmethanesulfonylbenzene according to a procedure analogous to that described in EXAMPLE 2, Step B. Boron tribromide (1M in dichloromethane, 2.0 equiv) was used. After 30 minutes, ice water (50 ml) was added to quench the reaction, and the mixture was extracted with dichloromethane (3×25 ml). The combined organic phases were dried over anhydrous Na2SO4, filtered, and concentrated. The residue was dissolved in ethyl acetate/methanol and stirred with activated carbon, then filtered through Celite® and concentrated. The title product of Step C was used in the next step without further purification. MS (APCI−) Calc.: 377.4, Found: 376.1 (M−1).

reactant | 5-(2,6-dimethyl-4-nitro-phenoxy)-2-methoxy-cyclopropylmethanesulfonylbenzene | CC1=C(OC=2C=CC(=C(C2)S(=O)(=O)CC2CC2)OC)C(=CC(=C1)[N+](=O)[O-])C | C19H21NO6S
reactant | Boron tribromide | 1M, 2.0 equiv | B(Br)(Br)Br | BBr3
product | 2-Cyclopropylmethanesulfonyl-4-(2,6-dimethyl-4-nitro-phenoxy)-phenol | C1(CC1)CS(=O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)O | C18H19NO6S
